### PR TITLE
Implement Lawveres fixed point theorem

### PR DESCRIPTION
**Pull request by TOTBWF**
This PR implements [Lawvere's Fixed Point Theorem](https://ncatlab.org/nlab/show/Lawvere%27s+fixed+point+theorem).

On the organizational front, I'm not sure that this is the best place to put the theorem, but I couldn't think of anywhere better. I'm open to suggestions!

### CODE REVIEW

**Comment by HuStmpHrrr** [comment]
thx for the PR. we usually use upper case for predicate, so `point-surjective` would become `PointSurjective` but otherwise I don't have other problems. probably @JacquesCarette would also want to take a look?

File: Categories/Category/CartesianClosed/Properties.agda [hunk 1]
```diff
@@ -0,0 +1,45 @@
...
+      x : ⊤ ⇒ A
+      x = proj₁ (surjective  g)
+
+      g-surjective : eval′ ∘ first ϕ ∘ ⟨ x , x ⟩ ≈ g ∘ x
+      g-surjective = proj₂ (surjective g) x
+
+      lemma : ∀ {A B C D} → (f : B ⇒ C) → (g : B ⇒ D) → (h : A ⇒ B) → (f ⁂ g) ∘ ⟨ h , h ⟩ ≈ ⟨ f , g ⟩ ∘ h
+      lemma f g h = begin
+        (f ⁂ g) ∘ ⟨ h , h ⟩ ≈⟨  ⁂∘⟨⟩ ⟩
+        ⟨ f ∘ h , g ∘ h ⟩ ≈⟨ sym ⟨⟩∘ ⟩
```
Comment (JacquesCarette) [inline Categories/Category/CartesianClosed/Properties.agda]: You should use `≈˘` instead of an explicit call to `sym`.

File: Categories/Category/CartesianClosed/Properties.agda [hunk 2]
```diff
@@ -0,0 +1,45 @@
...
+        ⟨ f , g ⟩ ∘ h ∎
+
+      g-fixed-point : f ∘ (g ∘ x) ≈ g ∘ x
+      g-fixed-point = begin
+        f ∘ g ∘ x ≈⟨  refl⟩∘⟨ sym g-surjective ⟩
+        f ∘ eval′ ∘ first ϕ ∘ ⟨ x , x ⟩  ≈⟨ refl⟩∘⟨ refl⟩∘⟨ lemma ϕ id x ⟩
+        f ∘ eval′ ∘ ⟨ ϕ , id ⟩ ∘ x ≈⟨ sym assoc ○ sym assoc ○ ∘-resp-≈ˡ assoc ⟩
+        (f ∘ eval′ ∘ ⟨ ϕ , id ⟩) ∘ x ≈⟨  refl ⟩∘⟨refl ⟩
```
Comment (JacquesCarette) [inline Categories/Category/CartesianClosed/Properties.agda]: I think this is just `refl`.

File: Categories/Category/CartesianClosed/Properties.agda [hunk 3]
```diff
@@ -0,0 +1,45 @@
...
+      lemma f g h = begin
+        (f ⁂ g) ∘ ⟨ h , h ⟩ ≈⟨  ⁂∘⟨⟩ ⟩
+        ⟨ f ∘ h , g ∘ h ⟩ ≈⟨ sym ⟨⟩∘ ⟩
+        ⟨ f , g ⟩ ∘ h ∎
+
+      g-fixed-point : f ∘ (g ∘ x) ≈ g ∘ x
+      g-fixed-point = begin
+        f ∘ g ∘ x ≈⟨  refl⟩∘⟨ sym g-surjective ⟩
+        f ∘ eval′ ∘ first ϕ ∘ ⟨ x , x ⟩  ≈⟨ refl⟩∘⟨ refl⟩∘⟨ lemma ϕ id x ⟩
+        f ∘ eval′ ∘ ⟨ ϕ , id ⟩ ∘ x ≈⟨ sym assoc ○ sym assoc ○ ∘-resp-≈ˡ assoc ⟩
```
Comment (JacquesCarette) [inline Categories/Category/CartesianClosed/Properties.agda]: you can probably use a combination of `≈˘` and `sym-assoc` to shorten this, I think to
```agda
≈˘⟨ assoc ○ assoc ○ ∘-resp-≈ˡ sym-assoc ⟩
```
(or likely in the opposite order).

File: Categories/Category/CartesianClosed/Properties.agda (hunk 2 above)
Comment (TOTBWF) [reply Categories/Category/CartesianClosed/Properties.agda]: Thanks, not sure how I missed that.
